US07034039B2
To a solution of tert-butyl[4-butoxy-2-isobutyl-6-(1,3-oxazol-5-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.28 g, 0.6 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the obtained solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1,3-oxazol-5-yl)-1(2H)-isoquinolinone hydrochloride (0.22 g, 91.7%) as crystals.

reactant | tert-butyl[4-butoxy-2-isobutyl-6-(1,3-oxazol-5-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.6 mmol, 0.28 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=CN=CO1)=O)CC(C)C)=O | C26H35N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1,3-oxazol-5-yl)-1(2H)-isoquinolinone hydrochloride | 0.22 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=CN=CO1)=O)CC(C)C | InChI=1S/C21H27N3O3.ClH/c1-4-5-8-26-20-17-9-15(19-11-23-13-27-19)6-7-16(17)21(25)24(12-14(2)3)18(20)10-22;/h6-7,9,11,13-14H,4-5,8,10,12,22H2,1-3H3;1H
